US05965555
N,N-Diethyl-N-[4-hydroxy-4-methyl-8-(3-methyl-7-propyl-xanthin-1-yl)-2-octynyl]-N-methylammonium iodide (by process variant G)
1 g (2.4 mmol) of 1-(8-diethylamino-5-hydroxy-5-methyl-6-octynyl)-3-methyl-7-propylxanthine--prepared as in Example 1A2), 1C2) or 1D2)--was introduced into 30 ml of diethyl ether, 425 mg (3.0 mmol) of methyl iodide were added, and the mixture was stirred at room temperature for 20 hours. Then a further 212 mg (1.5 mmol) of methyl iodide were added and the mixture was stirred under reflux for 2 hours. The resulting crystals were filtered off with suction, washed with diethyl ether and dried.

reactant | 1-(8-diethylamino-5-hydroxy-5-methyl-6-octynyl)-3-methyl-7-propylxanthine | 2.4 mmol, 1 g | C(C)N(CC#CC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C)O)CC | C22H35N5O3
reactant | methyl iodide | 3.0 mmol, 425 mg | CI | CH3I
reactant | methyl iodide | 1.5 mmol, 212 mg | CI | CH3I
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | N,N-Diethyl-N-[4-hydroxy-4-methyl-8-(3-methyl-7-propyl-xanthin-1-yl)-2-octynyl]-N-methylammonium iodide | [I-].C(C)[N+](C)(CC#CC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C)O)CC | InChI=1S/C23H38N5O3.HI/c1-7-15-26-18-24-20-19(26)21(29)27(22(30)25(20)5)16-11-10-13-23(4,31)14-12-17-28(6,8-2)9-3;/h18,31H,7-11,13,15-17H2,1-6H3;1H/q+1;/p-1
